US05246965
To a solution of 32.7 g (146 mmol) of 4-(5-chloropentoxy) benzonitrile in 350 mL acetone is added 38.3 g (150 mmol) of sodium iodide in 230 mL of acetone. The reaction is heated to reflux and stirred overnight. The acetone is removed under reduced pressure and the residue partitioned between water and ether. The ethereal layer is dried, filtered and evaporated to give 4-(5-iodopentoxy) benzonitrile, m.p. 51°-54° C.

reactant | 4-(5-chloropentoxy) benzonitrile | 146 mmol, 32.7 g | ClCCCCCOC1=CC=C(C#N)C=C1 | C12H14ClNO
reactant | sodium iodide | 150 mmol, 38.3 g | [I-].[Na+]
solvent | acetone | 350 mL | CC(=O)C | C3H6O
solvent | acetone | 230 mL | CC(=O)C | C3H6O
product | 4-(5-iodopentoxy) benzonitrile | ICCCCCOC1=CC=C(C#N)C=C1 | C12H14INO
